US06331538B1
1-(4-Hydroxyphenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione
A 2N solution of phosgene in toluene (2.5 mL, 5 mmol) was added to a solution of crude 2-(4-hydroxyanilino)-N-benzyloxy-4,5-difluoro-benzamide (Example I-1, 0.35 g, 0.95 mmol) in 20 mL of dioxane. The solution was heated at reflux for 2 hours, cooled down to room temperature and poured into ice water, and extracted with ethyl acetate (3×30 mL). Combined extracts were washed with water, brine, and dried over sodium sulfate to give 0.065 g of the title product as a solid.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 5 mmol, 2.5 mL | C1(=CC=CC=C1)C | C7H8
reactant | 2-(4-hydroxyanilino)-N-benzyloxy-4,5-difluoro-benzamide | 0.95 mmol, 0.35 g | OC1=CC=C(NC2=C(C(=O)NOCC3=CC=CC=C3)C=C(C(=C2)F)F)C=C1 | C20H16F2N2O3
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Hydroxyphenyl)-3-benzyloxy-6,7-difluoro-1H-quinazoline-2,4-dione | 0.065 g | OC1=CC=C(C=C1)N1C(N(C(C2=CC(=C(C=C12)F)F)=O)OCC1=CC=CC=C1)=O | C21H14F2N2O4
